US05728835
N-Formylmethyl-3-methoxy-N-(2-methoxyphenyl)benzamide
In an atmosphere of argon, N-(2-hydroxyethyl)-3-methoxy-N-(2-methoxyphenyl)benzamide (339 mg, 1.12 mmol) was dissolved in DMSO (4 ml) to which were subsequently added dropwise triethylamine (0.724 ml, 5.20 mmol) and a DMSO solution (8 ml) of a sulfur trioxide-pyridine complex (844 mg, 5.20 mmol) at room temperature. After 20 minutes of stirring at the same temperature, this was mixed with ice water (40 ml) and extracted with ethyl acetate, and then washed with water and saturated brine. The resulting organic layer was dried on anhydrous magnesium sulfate, and the solvent was removed by evaporation to obtain 220 mg (65.6%) of the title compound the form of light yellow solid.

reactant | N-(2-hydroxyethyl)-3-methoxy-N-(2-methoxyphenyl)benzamide | 1.12 mmol, 339 mg | OCCN(C(C1=CC(=CC=C1)OC)=O)C1=C(C=CC=C1)OC | C17H19NO4
reactant | triethylamine | 5.20 mmol, 0.724 ml | C(C)N(CC)CC | C6H15N
solvent | DMSO | 4 ml | CS(=O)C | C2H6OS
solvent | DMSO | 8 ml | CS(=O)C | C2H6OS
product | N-Formylmethyl-3-methoxy-N-(2-methoxyphenyl)benzamide | 220 mg, 65.6% | C(=O)CN(C(C1=CC(=CC=C1)OC)=O)C1=C(C=CC=C1)OC | C17H17NO4
